US06300342B1
(2) 6-[N-ethoxycarbonylmethyl-(naphthalin-2-ylmethyl)-amino]-1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline
Prepared from 6-[(naphthalin-2-ylmethyl)-amino]-1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline (see Example 14(2)) and ethyl iodoacetate

reactant | 6-[(naphthalin-2-ylmethyl)-amino]-1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline | C1=C(C=CC2=CC=CC=C12)CNC=1C=C2CCCN(C2=CC1)C(CCC1=CC=C(C=C1)C#N)=O | C30H27N3O
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
product | 6-[N-ethoxycarbonylmethyl-(naphthalin-2-ylmethyl)-amino]-1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline | C(C)OC(=O)CN(C=1C=C2CCCN(C2=CC1)C(CCC1=CC=C(C=C1)C#N)=O)CC1=CC2=CC=CC=C2C=C1 | C34H33N3O3
